US04855295
5,6,7,8-tetrahydro-5-ethoxymethyl-4-methyl-beta-carboline-3-carboxylic acid tert-butyl ester
0.35 g of 5,6,7,8-tetrahydro-5-ethoxymethyl-4-methylbeta-carboline-3-carboxylic acid is heated in tert-butoxybis(dimethylamino)methane (8 ml) in an argon atmosphere for 3 hours to 120° C. After evaporation of the volatile ingredients the residue is chromatographed on silica gel with a mixture of dichloromethane (8 parts), acetone (1 part) and ethanol (1 part). The yield is 0.2 g.

reactant | 5,6,7,8-tetrahydro-5-ethoxymethyl-4-methylbeta-carboline-3-carboxylic acid | 0.35 g | C(C)OCC1C=2C=3C(=C(N=CC3NC2CCC1)C(=O)O)C | C16H20N2O3
solvent | tert-butoxybis(dimethylamino)methane | 8 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 5,6,7,8-tetrahydro-5-ethoxymethyl-4-methyl-beta-carboline-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1N=CC=2NC=3CCCC(C3C2C1C)COCC | C20H28N2O3
